US08580794B2
methyl 5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-6-carboxylate
To a 50 ml pressure bottle were placed methyl imidazo[1,2-a]pyridine-6-carboxylate (0.26 g), acetic acid (10 ml), and wet 5% palladium on carbon (0.052 g). The reaction mixture was stirred for 16 hours at 30 psi and 50° C. The solid was filtered off, and the filtrate was concentrated. The residue was taken up in ethyl acetate. It was then washed with saturated sodium bicarbonate, brine, dried over MgSO4, filtered, and concentrated. The residue was purified by flash column chromatography on silica gel using 10-100% ethyl acetate in hexanes to provide the title compound.

reactant | methyl imidazo[1,2-a]pyridine-6-carboxylate | 0.26 g | N=1C=CN2C1C=CC(=C2)C(=O)OC | C9H8N2O2
catalyst | palladium on carbon | 0.052 g | [Pd] | Pd
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | methyl 5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-6-carboxylate | N=1C=CN2C1CCC(C2)C(=O)OC | C9H12N2O2
